US08071592B2
2-({[((3S)-1-{2-[6-(Methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]ethyl}-3-piperidinyl)methyl]amino}methyl)-5,6-dihydropyrido[2,3-d]pyrimidin-7(1H)-one Dihydrochloride
To a solution of 4-{2-[(3S)-3-(aminomethyl)-1-piperidinyl]ethyl}-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one (0.072 g, 0.23 mmol) in 1:1 MeOH/DCM (20 mL), was added 7-oxo-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidine-2-carbaldehyde (for a preparation see Example 125(c)) (0.04 g, 0.23 mmol), and excess Na2SO4. The solution was stirred at ambient temperature for 16 h followed by the addition of NaBH(OAc)3 (1.68 g, 7.92 mmol). The resulting solution was stirred for an additional 2 hours. Analysis by LCMS showed only 50% product, therefore an additional portion of 7-oxo-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidine-2-carbaldehyde (0.04 g, 0.23 mmol) was added and the reaction was stirred for an additional 16 h. The solution was then concentrated onto silica gel under vacuum and the crude residue purified by column chromatography (silica gel) using a DCM/DCM-MeOH—NH4OH (90:10:1) gradient to yield the free base of the desired product as a yellow oily film (0.034 g, 32%). LCMS: m/z 479.2 (MH+). 1H NMR (400 MHz, CDCl3) δ 1.57-1.69 (m, 2H) 1.73-1.82 (m, 1H) 1.95 (d, J=8.59 Hz, 21H) 2.18 (td, J=10.99, 3.03 Hz, 1H) 2.51-2.63 (m, 21H) 2.67-2.75 (m, 4H) 2.81-2.92 (m, 1H) 2.92-3.01 (m, 2H) 3.21-3.32 (m, 1H) 3.88-4.00 (m, 2H) 4.00-4.05 (m, 3H) 4.57-4.68 (m, 2H) 6.73 (d, J=8.59 Hz, 1H) 8.00-8.04 (m, 1H) 8.23 (s, 1H) 8.36 (s, 1H).

reactant | 4-{2-[(3S)-3-(aminomethyl)-1-piperidinyl]ethyl}-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one | 0.23 mmol, 0.072 g | NC[C@H]1CN(CCC1)CCN1C2=C(N=CC1=O)C=CC(=N2)OC | C16H23N5O2
reactant | 7-oxo-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidine-2-carbaldehyde | O=C1CCC2=C(N=C(N=C2)C=O)N1 | C8H7N3O2
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | NaBH(OAc)3 | 7.92 mmol, 1.68 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | 7-oxo-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidine-2-carbaldehyde | 0.23 mmol, 0.04 g | O=C1CCC2=C(N=C(N=C2)C=O)N1 | C8H7N3O2
reactant | MeOH DCM | 20 mL | CO.C(Cl)Cl
product | 2-({[((3S)-1-{2-[6-(Methyloxy)-3-oxopyrido[2,3-b]pyrazin-4(3H)-yl]ethyl}-3-piperidinyl)methyl]amino}methyl)-5,6-dihydropyrido[2,3-d]pyrimidin-7(1H)-one Dihydrochloride | Cl.Cl.COC=1C=CC2=C(N(C(C=N2)=O)CCN2C[C@@H](CCC2)CNCC2=NC=C3C(N2)=NC(CC3)=O)N1 | InChI=1S/C24H30N8O3.2ClH/c1-35-21-7-5-18-24(30-21)32(22(34)14-26-18)10-9-31-8-2-3-16(15-31)11-25-13-19-27-12-17-4-6-20(33)29-23(17)28-19;;/h5,7,12,14,16,25H,2-4,6,8-11,13,15H2,1H3,(H,27,28,29,33);2*1H/t16-;;/m0../s1
